US07465726B2
tert-Butyl 4-{4-[3-(1H-pyrazol-4-yl)phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylate
The title compound was prepared following the procedure for tert-butyl 4-{4-[3-(1H-pyrrol-2-yl)phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylate, but using 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole. 1H-NMR (CD3OD, 400 MHz): δ=1.50 (s, 9H), 2.57 (m, 2H), 3.67 (m, 2H), 4.14 (m, 2H), 6.29 (s, br, 1H), 6.66 (s, 1H), 7.33-7.39 (m, 2H), 7.58 (dt, J=2.0, 7.2 Hz, 1H), 7.92 (d, J=1.2 Hz, 1H), 7.93-8.00 (m, 2H), 8.23 (s, 1H). MS (ES+): m/z 458.03 [MH+]. HPLC: tR=2.70 min (ZQ2000, polar—5 min).

reactant | tert-butyl 4-{4-[3-(1H-pyrrol-2-yl)phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylate | N1C(=CC=C1)C=1C=C(C=CC1)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C26H28N6O2
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | tert-Butyl 4-{4-[3-(1H-pyrazol-4-yl)phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylate | N1N=CC(=C1)C=1C=C(C=CC1)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C25H27N7O2
